US04383945
A solution of methyl [(4R)-2-oxo-4-(1,2,4-trioxolan-3-ylmethyl)azetidin-1-yl]glyoxylate (60 mg) in methanol (5 ml) was heated at 65°-70° for two hours. The yellowish solution was cooled to 0° C. and treated with a solution of diazomethane (excess) in diethyl ether. After removal of the solvent, the residue was chromatographed on silica gel (1.5 g) eluting with 20% acetone in dicloromethane to give methyl 2-[(2R)-4-oxoazetidin-2-yl]acetate (6 mg).

reactant | methyl [(4R)-2-oxo-4-(1,2,4-trioxolan-3-ylmethyl)azetidin-1-yl]glyoxylate | 60 mg | O=C1N([C@@H](C1)CC1OOCO1)C(C(=O)OC)=O | C9H11NO7
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | 5 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 2-[(2R)-4-oxoazetidin-2-yl]acetate | 6 mg | O=C1C[C@@H](N1)CC(=O)OC | C6H9NO3
